US07067535B2
In 10 ml of methylene chloride were suspended 176 mg of (±)-cis-2-phenylpiperidin-3-ylamine, 280 mg of 2-methoxy-5-(2-trifluoromethylphenyl)benzaldehyde, 424 mg of sodium triacetoxyborohydride and 0.2 ml of acetic acid. This reaction mixture was stirred at room temperature for 16 hours, a saturated aqueous sodium hydrogen carbonate solution was added to the mixture and the resulting mixture was extracted with chloroform. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated. The concentrated residue was purified by silica gel column chromatography (chloroform/methanol=10/1) to give a colorless oily product. This product was dissolved in ethyl acetate, and treated with an ethyl acetate solution of 4N hydrochloric acid. The precipitated white crystals were collected by filtration and washed with ethanol, and dried under reduced pressure to give 243 mg of [(±)-cis-2-phenylpiperidin-3-yl][2-methoxy-5-(2-trifluoromethylphenyl)benzyl]amine dihydrochloride.

reactant | (±)-cis-2-phenylpiperidin-3-ylamine | 176 mg | C1(=CC=CC=C1)[C@@H]1NCCC[C@@H]1N | C11H16N2
reactant | 2-methoxy-5-(2-trifluoromethylphenyl)benzaldehyde | 280 mg | COC1=C(C=O)C=C(C=C1)C1=C(C=CC=C1)C(F)(F)F | C15H11F3O2
reactant | sodium triacetoxyborohydride | 424 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
product | [(±)-cis-2-phenylpiperidin-3-yl][2-methoxy-5-(2-trifluoromethylphenyl)benzyl]amine dihydrochloride | 243 mg | Cl.Cl.C1(=CC=CC=C1)[C@@H]1NCCC[C@@H]1NCC1=C(C=CC(=C1)C1=C(C=CC=C1)C(F)(F)F)OC | InChI=1S/C26H27F3N2O.2ClH/c1-32-24-14-13-19(21-10-5-6-11-22(21)26(27,28)29)16-20(24)17-31-23-12-7-15-30-25(23)18-8-3-2-4-9-18;;/h2-6,8-11,13-14,16,23,25,30-31H,7,12,15,17H2,1H3;2*1H/t23-,25-;;/m0../s1
